US06271411B1
20 ml of triethylamine, 2.2 g (20 mmole) of indene, 4.77 g (20 mmole) of para-chloro iodo-benzene and 0.134 g (0.6 mmole) of Pd(OAc)2 were stirred under reflux for 10 h. After that the mixture was cooled to room temperature and treated with 100 ml of ethanol. The crystalline precipitate was isolated, washed with cold ethanol and dried under vacuum to obtain 2.53 g (56%) of 2-(4-chloro-phenyl)-indene.

reactant | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
reactant | indene | 20 mmole, 2.2 g | C1C=CC2=CC=CC=C12 | C9H8
reactant | para-chloro iodo-benzene | 20 mmole, 4.77 g | ClC1=CC=C(C=C1)I | C6H4ClI
catalyst | Pd(OAc)2 | 0.6 mmole, 0.134 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-(4-chloro-phenyl)-indene | 2.53 g, 56% | ClC1=CC=C(C=C1)C=1CC2=CC=CC=C2C1 | C15H11Cl
